.lib /home/sumit/eda_tools/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt


* Deivce Parameters:
*--------------
.param PW= 0.46
.param AD = {PW*0.3}
.param AS={PW*0.3}
.param PS={2*(PW+0.3)} 
.param PD={2*(PW+0.3)}

*------------Inveter for first input and load --------------
.subckt INVX1 A VPWR VGND Y
X0 Y A VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.405 pd=3.3 as=0.405 ps=3.3 w=1.35 l=0.15

X1 Y A VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

C0 VPWR Y 0.13766f
C1 VPWR A 0.10451f
C2 Y A 0.03664f
C3 Y VGND 0.40665f
C4 VPWR VGND 0.82521f
.ends

*-----------AND with one inverted input----------
.subckt AND2 A B VPWR VGND Y
X2 B2 B VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.405 pd=3.3 as=0.405 ps=3.3 w=1.35 l=0.15
X6 B2 B VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

X0 B1 A VPWR VPWR sky130_fd_pr__pfet_01v8 L=0.15 w={PW} as={AS} ad={AD} ps={PS} pd={PD}
X1 B1 B2 VPWR VPWR sky130_fd_pr__pfet_01v8 L=0.15 w={PW} as={AS} ad={AD} ps={PS} pd={PD}
*X1 Y V3 V1 VPWR sky130_fd_pr__pfet_01v8 L=0.15 w={PW} as={AS} ad={AD} ps={PS} pd={PD}
*X2 V3 B VPWR VPWR sky130_fd_pr__pfet_01v8 L=0.15 w={PW} as={AS} ad={AD} ps={PS} pd={PD}
X4 B1 A V1 VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X5 V1 b2 VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

X3 Y B1 VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.405 pd=3.3 as=0.405 ps=3.3 w=1.35 l=0.15
X7 Y B1 VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

*X5 Y V3 VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
*X6 V3 B VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
.ends

* The voltage source:
*--------------------------------------------------------
VDD vdd 0 DC 1.8

VIN1 in1 0 PULSE(1.8 0 0 20p 20p 2n 4n)
VIN2 in2 0 PULSE(0 1.8 0 20p 20p 2n 4n)

.tran 1p 8n
*--------------------------------------------------------
*XINV1 in2 vdd 0 out1 INVX1
XAND1 in1 in2 vdd 0 out AND2
*XINV3 out2 vdd 0 out INVX1
XINV2 out vdd 0 load INVX1
*Cload out 0 0.5f

*--------------------------------------------------------
.meas tran tr TRIG V(out) VAL=0.36 RISE=1 TARG V(out) VAL=1.44 RISE=1
.meas tran tf TRIG V(out) VAL=1.44 FALL=1 TARG V(out) VAL=0.36 FALL=1


.meas tran tphl TRIG V(in1) VAL=0.9 RISE=1 TARG V(out) VAL=0.9 FALL=1
.meas tran tplh TRIG V(in1) VAL=0.9 FALL=1 TARG V(out) VAL=0.9 RISE=1
*--------------------------------------------------------


.control
run

*plot V(in1) V(in2) V(out)
*plot  V(in2) V(out)
meas tran VM find V(out) when V(in2)=V(out) cross=-1
print VM

.endc

.end